US06323238B1
Preparation of (2S,3S,4R)-N″-cyano-N-(6-cyano-3,4-dihydro-3-hydroxy-2-methyl-2-dimethoxymethyl-2H-benzopyran-4-yl)-N′-(4-chlorophenyl)guanidine
To a solution of 100 mg of (2S,3S,4R)-6-cyano-2-methyl-2-dimethoxymethyl-3-hydroxy-4-amino-3,4-dihydro-2H-1-benzopyran prepared in the preparation example 6 is dissolved in 3 ml of DMF, were added 92 mg of N-cyano-N′-(4-chlorophenyl)thiourea sodium salt and 89 mg of 1-[3-(dimethylamino)propyl]-2-ethylcarbodiimide hydrochloride. The reaction mixture was stirred for 6 hours at room temperature, and extracted with 30 ml of ethyl acetate after acidifying the mixture by adding 5 ml of 1N HCl. The organic Layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by siLica gel chromatography (n-hexane:ethyl acetate=1:1 to afford 70 mg (yield: 43%) of the desired compound Of (2S,3R,4S) stereochemistry.

reactant | (2S,3S,4R)-6-cyano-2-methyl-2-dimethoxymethyl-3-hydroxy-4-amino-3,4-dihydro-2H-1-benzopyran | 100 mg | C(#N)C=1C=CC2=C([C@H]([C@@H]([C@](O2)(C(OC)OC)C)O)N)C1 | C14H18N2O4
reactant | N-cyano-N′-(4-chlorophenyl)thiourea sodium salt | 92 mg | [Na].C(#N)NC(=S)NC1=CC=C(C=C1)Cl
reactant | 1-[3-(dimethylamino)propyl]-2-ethylcarbodiimide hydrochloride | 89 mg | Cl.CN(CCCCCN=C=N)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (2S,3S,4R)-N″-cyano-N-(6-cyano-3,4-dihydro-3-hydroxy-2-methyl-2-dimethoxymethyl-2H-benzopyran-4-yl)-N′-(4-chlorophenyl)guanidine | 70 mg, yield: 43% | C(#N)N=C(N[C@H]1[C@@H]([C@](OC2=C1C=C(C=C2)C#N)(C(OC)OC)C)O)NC2=CC=C(C=C2)Cl | C22H22ClN5O4
